Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Keflex
 
Attending: ___.
 
Chief Complaint:
s/p fall neck pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old woman who had an unwitnessed 
mechanical fall last night, striking her head on her closet 
door. She states that she does not think that she lost 
consciousness. She called ___ herself and was awake and 
interactive upon EMS arrival. A CT C-spine at OSH showed C1 and 
C2 fractures. She was transferred to ___. 

Upon initial assessment by ___, Ms. ___ reports mild 
posterior neck pain but denies fever, chills, nausea, vomiting, 
chest pain, shortness of breath, abdominal pain, problems with 
bowel movements, or dysuria. 
 
Past Medical History:
PMH: HTN, COPD 

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Admission Physical Exam:
Physical Exam:
Vitals:
99.3F, 86, 112/75, 14, 96% Nasal Cannula 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
Neck: Posterior neck tenderness to palpation 
CV: RRR 
PULM: No respiratory distress
ABD: S/NT/ND
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical Exam:
VS: VSS, afebrile
Gen: A&O x3, lying comfortably in NAD
HEENT: forehead lac sutured, CDI
Neck: in hard collar
CV: RRR 
PULM: No respiratory distress
ABD: S/NT/ND
Ext: No ___ edema, ___ warm and well perfused
 
Pertinent Results:
___ 04:30AM BLOOD WBC-10.2* RBC-4.15 Hgb-12.8 Hct-39.6 
MCV-95 MCH-30.8 MCHC-32.3 RDW-12.9 RDWSD-45.5 Plt ___
___ 04:30AM BLOOD ___ PTT-22.8* ___
___ 04:30AM BLOOD Glucose-166* UreaN-16 Creat-0.6 Na-134 
K-3.0* Cl-96 HCO3-25 AnGap-16

Radiology: 
MR CERVICAL SPINE ___: 
1. Fractures through the posterior arch of C1 and type 3 dens
fracture as seen on same-day CT examination with associated bony
edema and extensive prevertebral soft tissue edema, as 
described.

2. Minimal irregularity of the anterior longitudinal ligament at
the level of the dens fracture suggestive of ligamentous injury. 

3. 2 mm anterolisthesis of C4 on C5, C7 on T1 of unclear
chronicity, though there is no associated ligamentous injury and
is likely degenerative. 
4. Widening of the C5-C6 interspinous distance is likely 
chronic,
without associated ligamentous injury. 
5. Multilevel cervical degenerative changes, as described, with
most notable findings including moderate spinal canal narrowing
at C4-C5, and multilevel significant foraminal narrowing. 
6. No definite spinal cord signal abnormality. 
7.  27 mm left and a 7 mm right lobe thyroid nodules.  The
___ College of Radiology guidelines suggest thyroid
ultrasound for further evaluation. 

___ KNEE: Degenerative changes without fracture. 

___ CT L SPINE: 
1. Degenerative changes in the lumbar spine without acute
fracture. 
2. Expansion of sacral neural foramina with associated
low-density structures extending into the presacral soft 
tissues.
These could represent Tarlov cysts or nerve sheath tumors.  If
further characterization desired, MRI with contrast could be
performed on a nonurgent basis. 

___ CT T SPINE: 
1. Degenerative changes without fracture or malalignment in the
thoracic spine. 
2. Please see dedicated report up cervical spine CT for details
of the cervical spine and thyroid. 
3. Left paraspinal low-density structure, potentially nerve
sheath tumor, unchanged since ___ and likely benign. 
 
Brief Hospital Course:
Ms. ___ is a ___ yo F admitted to the Acute Care Trauma 
Surgery service on ___ after a fall from standing striking 
her head on the closet. Imaginge revealed a C1 post arch 
fracture and C2 type III dens fracture. MRI was negative for 
furether spinous injury. Patient also had a forehead laceration 
which was repaired at the bedside. The Spine team was consulted 
and recommended non-operative management with a hard collar and 
follow-up in clinic in ___ weeks.  The patient was 
hemodynamically and neurologically stable. Home 
antihypertensives were held due to low blood pressure. 

Tertiary trauma exam was negative for any additional injuries. 
Physical Therapy evaluated the patient and cleared her for home 
with home ___. Pain was well controlled. The patient was seen by 
Speech and Swallow and cleared for a regular diet, which she 
took in with good tolerability. The patient voided without 
problem. During this hospitalization, the patient ambulated 
early and frequently, was adherent with respiratory toilet and 
incentive spirometry, and actively participated in the plan of 
care. The patient received subcutaneous heparin and venodyne 
boots were used during this stay.
.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating with a walker, voiding without assistance, and 
pain was well controlled.  The patient was discharged home with 
services. The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan. Her antihypertensives continued to be held 
and she had follow-up with her PCP to discuss these medications 
as well as an incidental finding on MRI of a 27 mm left and a 7 
mm right lobe thyroid nodules.  
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Simvastatin 40 mg PO QPM 
2. Tiotropium Bromide 1 CAP IH DAILY 
3. Atenolol 100 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
RX *acetaminophen 325 mg 2 tablet(s) by mouth three times a day 
Disp #*25 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0 
3.  Senna 8.6 mg PO BID:PRN constipation  
4.  TraMADol 25 mg PO Q6H:PRN pain 
take lowest effective dose.  
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every six 
(6) hours Disp #*15 Tablet Refills:*0 
5.  Aspirin 81 mg PO DAILY  
6.  Hydrochlorothiazide 25 mg PO DAILY  
7.  Simvastatin 40 mg PO QPM  
8.  Tiotropium Bromide 1 CAP IH DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Posterior C1 arch 
Type III dens fractures
Forehead laceration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Trauma Surgery Service on 
___ after a fall from standing. You had a CT scan and MRI 
that revealed a fracture in your cervical spine (neck). You were 
seen and evaluated by the spine team who recommended 
non-operative management and wearing the hard cervical collar 
until your follow up appointment (at least 3 weeks). 

You had some increased difficulty swallowing and were evaluated 
by the Speech and swallow specialist. You were cleared you to 
continue with a regular diet. Please note the following 
instructions:      
     -sit FULLY upright for all PO intake
     -small bites/sips
     -slow rate
     -use straw for liquids 
     -alternate solids/liquids
     -use multiple swallows as needed

You were seen and evaluated by physical therapy who recommend 
continued physical therapy at home.

In the hospital your blood pressure was found to be low. Your 
atenolol and lisinopril were held. Please continue to hold these 
medications until you follow up with your primary care provider.

You are now doing better, tolerating a regular diet, and pain is 
well controlled. You are now ready to be discharged to home to 
continue your recovery.

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
orthopedic surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___